US09085576B2
Step 1: 1-(5-chloropyridin-2-yl)-2,2,2-trifluoroethanol
To a solution of 5-chloropicolinaldehyde (0.505 g, 3.57 mmol) in THF (7 mL) at 0° C. were added (trifluoromethyl)trimethylsilane (0.685 mL, 4.63 mmol) and tetra-N-butylammonium fluoride (1 M in THF, 0.036 mL, 0.036 mmol). The reaction mixture was stirred at 0° C. for 15 min and diluted with water (10 mL) and additional tetra-N-butylammonium fluoride (1 M in THF, 2.0 mL, 2.0 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 30 min. The reaction mixture was diluted with EtOAc, the organic phase was separated and washed with water, brine and dried over MgSO4. The filtrate was concentrated under reduced pressure and the residue was purified by flash column chromatography on silica gel (5% to 20% EtOAc in heptane) to give the title compound (0.643 g, 3.04 mmol, 85% yield) as a yellow oil. MS m/z=211.9 [M+H]+. Calculated for C7H5ClF3NO 211.0.

reactant | 5-chloropicolinaldehyde | 3.57 mmol, 0.505 g | ClC=1C=CC(=NC1)C=O | C6H4ClNO
reactant | (trifluoromethyl)trimethylsilane | 4.63 mmol, 0.685 mL | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | tetra-N-butylammonium fluoride | 2.0 mmol, 1 M, 2.0 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetra-N-butylammonium fluoride | 0.036 mmol, 1 M, 0.036 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | 1-(5-chloropyridin-2-yl)-2,2,2-trifluoroethanol | 3.04 mmol, 0.643 g, 85% yield | ClC=1C=CC(=NC1)C(C(F)(F)F)O | C7H5ClF3NO
